Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fatigue
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year old year old woman with with stage III
NSCLC on pembrolizumab, complicated by hypothyroidism, who is
admitted from the ED with one week of very poor appetite with
associated fatigue and cough found to have hyponatremia and
elevated TSH.

Patient reports developing very poor appetite about a week prior
to admission. She denies any nausea, vomiting or abdominal pain.
Also had two episodes of loose stool but no significant issue
with diarrhea. She has otherwise felt generally more fatigued
than usual, although she remains active. She reports having 
lower
back pain with bilateral radicular symptoms about two weeks ago,
which has now resolved. She also noted her chronic cough has 
more
chest congestion and she cannot expectorate as much sputum. She
otherwise has no complaints. No fevers or chills. She has lost
about 15 pounds in the last year but weight is stable recently.
No headache or visual changes. No dysphagia or odynophagia. No 
CP
or SOB. No dysuria. No new rashes. No edema. She called her
oncologist with these sytmpoms and was referred into the ED.
Notably her levothyroxine was planned to increased from 25mcg to
50mcg daily on ___, however patient reports continuing to
take 25mcg daily.

In the ED, initial VS were T 97.4, HR 100, BP 107/58, RR 16, O2
97%RA.  Initial labs notable for Na 128, K 4.3, HCO3 24, Cr 0.7,
CK 583, Trop <0.01, Ca 9.8, Mg 1.6, P 4.4, TSH 28, WBC 9.4, HCT
40.7, PLT 429. UA with 69 WBC 2 RBC few bacteria nitrate 
negative
and 2 epi. FENa was 0.4%.  CXR showed no definite acute
cardiopulmonary process, however, a right lower lobe mass was 
not
clearly delineated. She was given 1L IVF. VS prior to transfer
were T 99.2, HR 95, BP 119/64, RR 19, O2 95%RA.
 
Past Medical History:
- Non-small cell lung cancer as above
- SP RUL Lobectomy
- Immune mediated hypothyroidism
 
Social History:
___
Family History:
Mother - breast cancer
Father - heart disease
Sister - breast cancer
 
Physical Exam:
24 HR Data (last updated ___ @ 1518)
    Temp: 98.5 (Tm 98.5), BP: 115/69 (106-129/63-74), HR: 94
(83-94), RR: 18 (___), O2 sat: 94% (94-97), O2 delivery: RA  
GENERAL: Sitting up in bed, alert, in NAD 
CARDIOVASCULAR: Regular rate and rhythm, no M/R/G
RESPIRATORY: breathing comfortably on room air, ronchorous
throughout, decreased BS RLL
GASTROINTESTINAL: soft, nontender, nondistended
MUSKULOSKELATAL: WWP. no lower extremity edema
NEURO: Alert, oriented
 
Pertinent Results:
___ 11:55AM BLOOD Glucose-74 UreaN-7 Creat-0.7 Na-128* 
K-4.3 Cl-90* HCO3-24 AnGap-14
___ 09:10AM BLOOD Glucose-113* UreaN-6 Creat-0.6 Na-127* 
K-4.3 Cl-92* HCO3-24 AnGap-11
___ 07:00PM BLOOD Glucose-67* UreaN-5* Creat-0.7 Na-128* 
K-4.3 Cl-92* HCO3-24 AnGap-12
___ 06:00AM BLOOD Glucose-39* UreaN-6 Creat-0.6 Na-129* 
K-4.1 Cl-92* HCO3-21* AnGap-16
___ 07:12AM BLOOD Glucose-92 UreaN-8 Creat-0.6 Na-130* 
K-4.8 Cl-94* HCO3-22 AnGap-14
___ 11:55AM BLOOD TSH-28*
___ 09:10AM BLOOD TSH-14*
___ 07:07AM BLOOD FSH-46* LH-9.5 Prolact-24*
___ 09:10AM BLOOD Free T4-0.9*
___ 09:10AM BLOOD Cortsol-1.5*
___ 06:00AM BLOOD Cortsol-2.4
___ 06:37AM BLOOD Cortsol-12.2
___ 07:07AM BLOOD Cortsol-15.8
___ 09:10AM BLOOD CRP-35.0*
___ 07:12AM BLOOD Anti-Tg-PND antiTPO-PND
 
Brief Hospital Course:
Ms. ___ is a ___ year old year old woman with with stage III 
NSCLC on pembrolizumab, complicated by hypothyroidism, admitted 
with one week of poor appetite/fatigue found to have 
hyponatremia, elevated TSH and adrenal insufficiency.

# Adrenal insufficiency
Cortisol on admission was found to be 1.5. Cosyntropin stim test 
the following morning showed a rise in her cortisol from 2.4 to 
15.8 demonstrating primary adrenal insufficiency. Endocrinology 
was consulted, who recommended starting stress dose steroids 
hydrocortisone 30mg QAM, 15mg Q3PM for three days and then 
transitioning to 10mg QAM and 15mg Q3PM. She was educated 
extensively on sick day rules and what to do in case of nausea 
or vomiting. This was also explained to her husband and sister.

# Hypothyroidism
On admission her TSH was found to be 28. Her levothyroxine dose 
was increased to 50mcg daily, which will be monitored by 
endocrinology as an outpatient.

# Non small cell lung cancer
# Cough
- Stage IIIA, but considered high risk for surgery or radiation; 
therefore treating with systemic pembrolizumab
- Recent PET-CT (___) without clear progression of disease 
or metastatic areas, although multiple FDG avid areas warrant 
close monitoring

TRANSITIONAL ISSUES
======================
[] Should continue stress dose hydrocortisone for one additional 
day and then switch to 10mg QAM, 5mg Q3PM
[] Needs scheduled follow up with Endocrinology, endocrine team 
to schedule
[] Will need TSH rechecked in ___ weeks given increase in 
levothyroxine during hospitalization
[] Would check chemistry on ___ to make sure sodium is stable
[] Will need a medical alert bracelet for adrenal insufficiency
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 25 mcg PO DAILY 
2. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  blunt needle, disposable 18 x ___  miscellaneous as 
directed 
RX *blunt needle, disposable 18 gauge X ___ as direct as 
needed Disp #*5 Each Refills:*0 
2.  Hydrocortisone 30 mg PO DAILY 
RX *hydrocortisone 10 mg 3 tablet(s) by mouth every morning Disp 
#*3 Tablet Refills:*0 
3.  Hydrocortisone 15 mg PO Q3PM 
RX *hydrocortisone 5 mg 3 tablet(s) by mouth at 3 ___ Disp #*3 
Tablet Refills:*0 
4.  Hydrocortisone 10 mg PO QAM 
RX *hydrocortisone 10 mg 1 tablet(s) by mouth every morning Disp 
#*30 Tablet Refills:*0 
5.  Hydrocortisone 5 mg PO Q3PM 
RX *hydrocortisone 5 mg 1 tablet(s) by mouth at 3 ___ Disp #*30 
Tablet Refills:*0 
6.  safety needles 23 gauge x ___ miscellaneous as directed 
RX *safety needles [BD SafetyGlide Needle] 23 gauge X 1" as 
directed as needed Disp #*5 Each Refills:*0 
7.  Solu-CORTEF (hydrocorTISone Sod Succinate) 100 mg 
intramuscular once 
Inject intramuscularly once if you experience serious illness, 
vomiting or diarrhea. Then go to the emergency department. 
RX *hydrocortisone sod succinate [Solu-Cortef] 100 mg 1 vial 
intramuscularly once Disp #*3 Vial Refills:*0 
8.  Levothyroxine Sodium 50 mcg PO DAILY 
RX *levothyroxine 50 mcg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*0 
9.  Vitamin D 1000 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 2,000 unit 1 tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypothyroidism, primary adrenal insufficiency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

It was a pleasure taking care of you at ___.

You were admitted to the hospital with fatigue. You were found 
to have significantly decreased function of your thyroid and 
adrenal glands. You were seen by the Endocrinology doctors and 
were ___ medication to replace the hormones that are low. It 
is extremely important that you continue to take these 
medications as prescribed and it would be very dangerous to stop 
taking them. You will need to wear a medical alert bracelet to 
indicate that you have adrenal insufficiency.

It is also very important that you adhere to the following 
instructions:

You will need to take hydrocortisone 30mg every morning and 15mg 
every afternoon (3PM) for one more day.

You should then take hydrocortisone 10mg every morning and 5mg 
every afternoon (3PM) going forward.

On days that you are sick with a cold or other minor illness, 
you should take a STRESS DOSE of the hydrocortisone: 30 mg in 
the morning and 15mg in the afternoon (3PM) for three days, then 
resume your regular 10mg in AM and 5mg every afternoon. Also 
call your endocrinologist.

On days that you are sick with vomiting or severe diarrhea, you 
should administer the prescribed injection of Solu-cortef 100mg 
intramuscularly and go to the emergency department. 

 
Followup Instructions:
___